US07932282B2
To a solution of 3-methyl-2-oxo-1-(2-pyrazinyl)-4-imidazolidinecarboxylic acid (145 mg, 0.561 mmol) and N-ethylmorpholine (0.426 ml, 3.36 mmol) in dichloromethane (5 ml) was added 1-hydroxybenzotriazole hydrate (86 mg, 0.561 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (107 mg, 0.561 mmol) and the reaction mixture was stirred for 10 minutes at room temperature. 1-[2-Chloro-3-(trifluoromethyl)phenyl]methanamine (141 mg, 0.673 mmol) was added and the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and washed with saturated sodium hydrogen carbonate solution, water and brine and separated by hydrophobic frit and the organic layer reduced under vacuum. The residue was purified by SP4 automated silica gel chromatography eluting with 10-100% ethyl acetate in isohexane to give N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-2-oxo-1-(2-pyrazinyl)-4-imidazolidinecarboxamide (45 mg, 19% yield). LC/MS [M+H]+=413, retention time=2.21 minutes.

reactant | 3-methyl-2-oxo-1-(2-pyrazinyl)-4-imidazolidinecarboxylic acid | 0.561 mmol, 145 mg | CN1C(N(CC1C(=O)O)C1=NC=CN=C1)=O | C9H10N4O3
reactant | N-ethylmorpholine | 3.36 mmol, 0.426 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.561 mmol, 86 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.561 mmol, 107 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-[2-Chloro-3-(trifluoromethyl)phenyl]methanamine | 0.673 mmol, 141 mg | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-2-oxo-1-(2-pyrazinyl)-4-imidazolidinecarboxamide | 45 mg, 19% yield | ClC1=C(C=CC=C1C(F)(F)F)CNC(=O)C1N(C(N(C1)C1=NC=CN=C1)=O)C | C17H15ClF3N5O2
